US05932571
Combine 2-(4-bromobenzyloxy)ethyl trifluoromethyl ether (2.4 g, 8.1 mmol), thioanisole (28.5 mL, 243 mmol), and trifluoroacetic acid (30 mL). After 24 hours, add potassium bicarbonate to neutralize. Add MgSO4 and chloroform (30 mL). Filter and distill through a short path distillation apparatus to give 2-(trifluoroacetoxy)ethyl trifluoromethyl ether containing chloroform which can be used without further purification.

reactant | 2-(4-bromobenzyloxy)ethyl trifluoromethyl ether | 8.1 mmol, 2.4 g | FC(F)(F)OCCOCC1=CC=C(C=C1)Br | C10H10BrF3O2
reactant | thioanisole | 243 mmol, 28.5 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(trifluoroacetoxy)ethyl trifluoromethyl ether | FC(F)(F)OCCOC(C(F)(F)F)=O | C5H4F6O3
